US08048909B2
Ethyl 2-methyl-5-(3-thienyl)-1H-pyrrole-3-carboxylate
Using ethyl 2-acetyl-3-methyl-4-oxo-4-(3-thienyl)butanoate (1.86 g) and ammonium acetate (626 mg), a procedure as in Reference Example 14 was performed to give the title compound as a brown oil (yield 1.57 g, 91%).

reactant | ethyl 2-acetyl-3-methyl-4-oxo-4-(3-thienyl)butanoate | 1.86 g | C(C)(=O)C(C(=O)OCC)C(C(C1=CSC=C1)=O)C | C13H16O4S
reactant | ammonium acetate | 626 mg | C(C)(=O)[O-].[NH4+]
product | Ethyl 2-methyl-5-(3-thienyl)-1H-pyrrole-3-carboxylate | yield 1.57 g, 91% | CC=1NC(=CC1C(=O)OCC)C1=CSC=C1 | C12H13NO2S
